US04861880
1-(4-Methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone
1-(4-Methoxyphenyl)-2(1H,3H)-indolone (49 g, 0.205 mole), N-methyl-2-pyrrolidone dimethyl acetal (ca. 80%, 53 g, 0.245 mole, Ber, 97, pp. 3081-7, 1964) and 1000 ml chloroform were refluxed under nitrogen for 1.5 hours. The reaction mixture was cooled and evaporated in vacuo to solids. Two recrystallizations from ethyl acetate gave purified title product, 44.7 g, m.p. 90°-93° C. Thirty grams of this material were dried at 80° C./15 mm Hg for 20 hours to give 26.1 g of title product, m.p. 127°-9° C.

reactant | 1-(4-Methoxyphenyl)-2(1H,3H)-indolone | 0.205 mole, 49 g | COC1=CC=C(C=C1)N1C(CC2=CC=CC=C12)=O | C15H13NO2
reactant | N-methyl-2-pyrrolidone dimethyl acetal | COC1(N(CCC1)C)OC | C7H15NO2
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | 26.1 g | COC1=CC=C(C=C1)N1C(C(C2=CC=CC=C12)=C1N(CCC1)C)=O | C20H20N2O2
